US06919331B2
(5-Bromo-1H-benzoimidazol-2-yl)-methanol was prepared by the same procedure as [5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol, starting with 3-bromophenylenediamine.

reactant | [5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol | BrC1=CC2=C(N(C(=N2)CO)CCC(C)C)C=C1 | C13H17BrN2O
reactant | 3-bromophenylenediamine | BrC=1C(=C(C=CC1)N)N | C6H7BrN2
product | (5-Bromo-1H-benzoimidazol-2-yl)-methanol | BrC1=CC2=C(NC(=N2)CO)C=C1 | C8H7BrN2O
